US07067529B2
To a stirred solution of cyano-(3,4-dimethoxy-phenyl)-acetic acid ethyl ester (18.1 g, 72.6 mmol) in ethanol (100 mL) was added 10% palladium on activated carbon (3.6 g) and concentrated hydrogen chloride solution (6.6 mL). The reaction mixture was hydrogenated at 50 psi for 15 hrs. The mixture was filtered through a Celite® pad and the pad was washed with ethanol (500 mL). The filtrate was collected and concentrated in vacuo to afford 3-amino-2-(3,4-dimethoxy-phenyl)-propionic acid ethyl ester hydrochloride (15 g, 82% yield) as a white solid.

reactant | cyano-(3,4-dimethoxy-phenyl)-acetic acid ethyl ester | 72.6 mmol, 18.1 g | C(C)OC(C(C1=CC(=C(C=C1)OC)OC)C#N)=O | C13H15NO4
reactant | hydrogen chloride | 6.6 mL | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on activated carbon | 3.6 g | [Pd] | Pd
product | 3-amino-2-(3,4-dimethoxy-phenyl)-propionic acid ethyl ester hydrochloride | 15 g, 82% yield | Cl.C(C)OC(C(CN)C1=CC(=C(C=C1)OC)OC)=O | InChI=1S/C13H19NO4.ClH/c1-4-18-13(15)10(8-14)9-5-6-11(16-2)12(7-9)17-3;/h5-7,10H,4,8,14H2,1-3H3;1H
